### PR TITLE
Add Erdős Problem 262 (growth of irrationality sequences), link Hančl's formal proof

### LINKED ISSUE #6152: Erdős Problem 262
### What is the Erdős problem?

https://www.erdosproblems.com/262

Suppose $a_1<a_2<\cdots$ is a sequence of integers such that for all integer sequences $t_n$ with $t_n\geq 1$ the sum $\sum_{n=1}^\infty \frac{1}{t_na_n}$ is irrational. How slowly can $a_n$ grow?

Status: solved (Lean). Hančl proved $\limsup \log_2\log_2 a_n / n \geq 1$ for every such sequence; a formal proof exists in plby/lean-proofs (`Erdos262.erdos_262`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6152.

### What changed
Adds `FormalConjectures/ErdosProblems/262.lean` with `IsIrrationalitySequence a` (strictly increasing positive `a` with `∑ 1/(tₙ aₙ)` irrational for all positive integer `t`) and:
- `erdos_262` (`research solved`): Hančl's theorem `limsup log₂ log₂ aₙ / n ≥ 1` (in `EReal`) for every irrationality sequence. Linked to plby/lean-proofs `Erdos262.erdos_262` (Codex and GPT-5.6 Sol).
- `erdos_262.variants.general_growth`: `aₙ ≪ 2^(2^(n − F(n)))` with `∑ 2^(−F(n)) < ∞` rules out an irrationality sequence, linked to `Erdos262.not_irrationalitySequence_of_general_growth`.
- `erdos_262.variants.two_pow_two_pow` and `erdos_262.variants.factorial` (`research solved`): the example `2^(2^n)` and non-example `n!` from the problem page.

### How checked
- Rebuilt plby's file (single file, Mathlib-only) against this repo's Mathlib: `#print axioms Erdos262.erdos_262` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the two linked statements on top of a renamed copy, same axioms (the definitions agree up to unfolding; casts of `n + 1` are handled by `push_cast`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge262

lemma iff_plby (a : ℕ → ℕ) :
    Erdos262.IsIrrationalitySequence a ↔ Erdos262Plby.IrrationalitySequence a := by
  simp only [Erdos262.IsIrrationalitySequence, Erdos262Plby.IrrationalitySequence,
    Erdos262Plby.seriesTerm]

theorem erdos_262_bridge : type_of% Erdos262.erdos_262 := by
  intro a ha
  have := Erdos262Plby.erdos_262 a ((iff_plby a).1 ha)
  simpa [Erdos262Plby.doubleLogRatio] using this

theorem general_growth_bridge : type_of% Erdos262.erdos_262.variants.general_growth := by
  intro a F hF hsum hgrowth
  rw [iff_plby]
  refine Erdos262Plby.not_irrationalitySequence_of_general_growth a F (fun n => by
    have := hF n; push_cast; exact this) hsum ?_
  obtain ⟨C, hC, h⟩ := hgrowth
  refine ⟨C, hC, h.mono fun n hn => ?_⟩
  push_cast
  exact hn

end Bridge262
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«262»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/262.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/262.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/262.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+open Filter
+
+namespace Erdos262
+
+/-- A strictly increasing sequence $a_1 < a_2 < \cdots$ of positive integers is an irrationality
+sequence if $\sum_n \frac{1}{t_n a_n}$ is irrational for every sequence of positive integers
+$t_n$. -/
+def IsIrrationalitySequence (a : ℕ → ℕ) : Prop :=
+  (∀ n, 0 < a n) ∧ StrictMono a ∧
+    ∀ t : ℕ → ℕ, (∀ n, 0 < t n) → Irrational (∑' n, 1 / ((t n : ℝ) * a n))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/262.lean:46]: let's have a definition of "irrationality sequence" in `FormalConjecturesForMathlib`

**Review by mo271 — COMMENTED** [review]
thanks!
